US08709747B2
To a solution of 5,5′-(9,9-dibutyl-9H-fluorene-2,7-diyldi-2,1-ethynediyl)bis-2-thiophenecarboxaldehyde (1.14 g, 2.085 mmol) and [[4-(dihexylamino)phenyl]methyl]triphenylphosphonium iodide (1.66 g, 2.501 mmol) in anhydrous CH2Cl2 (40 mL), was added tBuOK (0.352 g, 3.137 mmol). The mixture was stirred at 20° C. for 16 h, then filtered through a short pad of silica gel. The solvent was removed under reduced pressure, and the crude product was purified by column chromatography on silica gel (heptane/CH2Cl2 gradient from 70:30 to 30:70) to yield 701 mg (42%) of 5-[[7-[[5-[(1E)-2-[4-(dihexylamino)phenyl]ethenyl]thien-2-yl]ethynyl]-9,9-dibutyl-9H-fluorene-2-yl]ethynyl]thiophene-2-carboxaldehyde; 1H NMR (300.13 MHz, CDCl3) δ 9.88 (s, 1H), 7.70 (d, J=7.8 Hz, 1H), 7.69 and 7.35 (AX, JAX=3.9 Hz, 2H), 7.68 (d, J=7.8 Hz, 1H), 7.56-7.49 (m, 4H), 7.33 and 6.61 (AA′XX′, JAX=8.9 Hz, 4H), 7.17 and 6.87 (AX, JAX=3.8 Hz, 2H), 6.95 (d, J=16.0 Hz, 1H), 6.86 (d, J=16.0 Hz, 1H), 3.28 (m, 4H), 2.00 (m, 4H), 1.60 (m, 4H), 1.33 (m, 12H), 1.11 (m, 4H), 0.91 (t, J=6.8 Hz, 6H), 0.69 (t, J=7.3 Hz, 6H), 0.59 (m, 4H).

reactant | 5,5′-(9,9-dibutyl-9H-fluorene-2,7-diyldi-2,1-ethynediyl)bis-2-thiophenecarboxaldehyde | 2.085 mmol, 1.14 g | C(CCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C#CC1=CC=C(S1)C=O)C#CC1=CC=C(S1)C=O)CCCC | C35H30O2S2
reactant | [[4-(dihexylamino)phenyl]methyl]triphenylphosphonium iodide | 2.501 mmol, 1.66 g | [I-].C(CCCCC)N(C1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC
reactant | tBuOK | 3.137 mmol, 0.352 g | C(C)(C)(C)O[K]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-[[7-[[5-[(1E)-2-[4-(dihexylamino)phenyl]ethenyl]thien-2-yl]ethynyl]-9,9-dibutyl-9H-fluorene-2-yl]ethynyl]thiophene-2-carboxaldehyde | 701 mg, 42% | C(CCCCC)N(C1=CC=C(C=C1)/C=C/C1=CC=C(S1)C#CC1=CC=C2C=3C=CC(=CC3C(C2=C1)(CCCC)CCCC)C#CC1=CC=C(S1)C=O)CCCCCC | C54H61NOS2
